US08664401B2
Step B) (2R)—N-hydroxy-2-methyl-2-(methylsulfonyl)-4-[2-oxo-4-(2-phenylethyl)pyridin-1(2H)-yl]butanamide
A solution of hydrochloric acid (1.0 mL, 4.0 M in 1,4-dioxane) was added to a solution of (2R)-2-methyl-2-(methylsulfonyl)-4-[2-oxo-4-(2-phenylethyl)pyridin-1(2H)-yl]-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (14 mg, 0.029 mmol) in 5:1 dichloromethane-methanol (1.2 mL) at 0° C. After 2 h, the reaction was concentrated under reduced pressure. The resulting residue was triturated with 1:1 pentane-dichloromethane, filtered, washed with pentane, and dried under reduced pressure to provide a light pink solid (8 mg, 70%). MS (APCI) m/z 393.3 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.51 (s, 3H) 2.00-2.14 (m, 1H) 2.24-2.36 (m, 1H) 2.63-2.74 (m, 2H) 2.78-2.88 (m, 2H) 3.06 (s, 3H) 3.58-3.73 (m, 1H) 3.94-4.08 (m, 1H) 6.16-6.26 (m, 2H) 7.11-7.32 (m, 5H) 7.55 (d, J=7.41 Hz, 1H) 11.14 (br s, 1H).

reactant | hydrochloric acid | 4.0 M, 1.0 mL | Cl | ClH
reactant | (2R)-2-methyl-2-(methylsulfonyl)-4-[2-oxo-4-(2-phenylethyl)pyridin-1(2H)-yl]-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.029 mmol, 14 mg | C[C@](C(=O)NOC1OCCCC1)(CCN1C(C=C(C=C1)CCC1=CC=CC=C1)=O)S(=O)(=O)C | C24H32N2O6S
solvent | dichloromethane methanol | 1.2 mL | ClCCl.CO
product | (2R)—N-hydroxy-2-methyl-2-(methylsulfonyl)-4-[2-oxo-4-(2-phenylethyl)pyridin-1(2H)-yl]butanamide | 8 mg, 70% | ONC([C@@](CCN1C(C=C(C=C1)CCC1=CC=CC=C1)=O)(S(=O)(=O)C)C)=O | C19H24N2O5S
